US04337256
To a mixture of 5.0 g of sodium cyanide and 120 ml of dimethylsulfoxide was added 11.7 g of 1-(4-chlorophenyl)-5-chloromethylisoquinoline little by little. The mixture was stirred at room temperature for 2 hours, and poured into a mixture of ethyl acetate and 1% sodium bicarbonate aqueous solution. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried. The solvent was distilled off. Recrystallization of the residue from dichloromethane-hexane afforded 1-(4-chlorophenyl)isoquinoline-5-acetonitrile as slightly yellow prisms having a melting point of 131.5° to 132.5° C.

reactant | sodium cyanide | 5.0 g | [C-]#N.[Na+]
reactant | dimethylsulfoxide | 120 ml | CS(=O)C | C2H6OS
reactant | 1-(4-chlorophenyl)-5-chloromethylisoquinoline | 11.7 g | ClC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)CCl | C16H11Cl2N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-chlorophenyl)isoquinoline-5-acetonitrile | ClC1=CC=C(C=C1)C1=NC=CC=2C(=CC=CC12)CC#N | C17H11ClN2
